US07572823B2
4-Trimethylsilanyl-benzaldehyde (178 mg, 1 mmol), 2-(3-trifluoromethoxy-phenyl)-ethyl-amine hydrochloride (241 mg, 1.1 mmol) and triethyl amine (151 mg, 1.5 mmol) were dissolved in methanol (5 ml) and the solution was stirred at rt for 5 min. Sodium borohydride (37 mg, 1 mmol) was added under nitrogen and the reaction mixture was stirred at rt for 1 h. Water was added and methanol was evaporated in vacuo. The reaction was extracted twice with diethyl ether and the combined organic layers were washed once with water and once with sat. aq. NaCl solution, dried with sodium sulfate, filtered off and concentrated in vacuo to yield [2-(3-trifluoromethoxy-phenyl)-ethyl]-(4-trimethylsilanyl-benzyl)-amine (370 mg, 100%) as a colorless oil. MS (ISP) 368.2 (100) (M+H)+.

reactant | 4-Trimethylsilanyl-benzaldehyde | 1 mmol, 178 mg | C[Si](C1=CC=C(C=O)C=C1)(C)C | C10H14OSi
reactant | 2-(3-trifluoromethoxy-phenyl)-ethyl-amine hydrochloride | 1.1 mmol, 241 mg | Cl.FC(OC=1C=C(C=CC1)CCN)(F)F
reactant | triethyl amine | 1.5 mmol, 151 mg | C(C)N(CC)CC | C6H15N
reactant | Sodium borohydride | 1 mmol, 37 mg | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | Water | O | H2O
product | [2-(3-trifluoromethoxy-phenyl)-ethyl]-(4-trimethylsilanyl-benzyl)-amine | 370 mg, 100% | FC(OC=1C=C(C=CC1)CCNCC1=CC=C(C=C1)[Si](C)(C)C)(F)F | C19H24F3NOSi
